** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/inverter_top.sch
.subckt inverter_top VDD vin4 vout4 VSS vin3 vout3 vin2 vout2 vout1 vin1
*.PININFO vin4:I VDD:B VSS:B vout4:B vin3:I vin2:I vin1:I vout3:B vout2:B vout1:B
x1 nwell1 psub VDD vin1 vout1 VSS inverter
x2 nwell1 psub VDD vin2 vout2 VSS inverter
x3 nwell2 psub VDD vin3 vout3 VSS inverter
x4 nwell2 psub VDD vin4 vout4 VSS inverter
.ends

* expanding   symbol:  inverter.sym # of pins=6
** sym_path: schematic/inverter.sym
** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/inverter.sch
.subckt inverter nwell psub VDD vin vout VSS
*.PININFO vin:I VDD:B VSS:B vout:B nwell:B psub:B
MMdummy1 VSS VSS VSS psub sg13_lv_nmos w=2.0u l=1.0u ng=2
MMdummy2 VDD VDD VDD nwell sg13_lv_pmos w=12.0u l=1.0u ng=2
MM1 vout vin VSS psub sg13_lv_nmos w=20.0u l=1.0u ng=20
MM2 vout vin VDD nwell sg13_lv_pmos w=120.0u l=1.0u ng=20
RR1 VDD nwell ntap1 A=2.406e-11 P=0.0001604
RR2 VSS psub ptap1 A=2.1276e-11 P=0.00014184
.ends

